US04634551
N-Decanoyl-6-Aminoperoxycaproic Acid
A 400 mL beaker was charged with 100 mL of 98% methanesulfonic acid and 500 g (0.175 mol) of N-decanoyl-6-aminocaproic acid. The resulting solution was cooled in an ice bath and, with stirring, 33.1 g of 90% hydrogen peroxide (29.8 g, 0.877 mol of hydrogen peroxide) was added dropwise at a rate such that the temperature of the reaction mixture did not rise above 20° C. The addition required a total of 10 min. The resulting mixture was stirred at room temperature for 3 hrs., cooled to -15° C., and poured into 500 mL of ice water. The precipitated solid was extracted into 200 mL methylene chloride. The methylene chloride solution was separated, washed with 100 mL portions of water until the wash water was neutral (6 washings required), dried over sodium sulfate, and evaporated on a rotary evaporator to yield 51.6 g of white solid having a peroxyacid AvO of 4.93% (theoretical yield=52.7 g of AvO 5.32%).

reactant | methanesulfonic acid | 100 mL | CS(=O)(=O)O | CH4O3S
reactant | N-decanoyl-6-aminocaproic acid | 0.175 mol, 500 g | C(CCCCCCCCC)(=O)NCCCCCC(=O)O | C16H31NO3
reactant | hydrogen peroxide | 0.877 mol, 33.1 g | OO | H2O2
product | N-Decanoyl-6-Aminoperoxycaproic Acid | 51.6 g | C(CCCCCCCCC)(=O)NCCCCCC(=O)OO | C16H31NO4
